US04001426
To a cooled (0°) mixture of 4.07 g. (0.018 mol.) of 2-p-methoxyphenylbenzofuran and 4.17 g. (0.027 mol.) of p-toluic acid chloride in 100 ml. of methylene chloride was added dropwise 11.25 g. (0.043 mol.) of stannic chloride. The reaction mixture was stirred for 1.5 hours at 0°, then for 0.5 hour at 25 °. The mixture was poured into water and stirred vigorously, the layers were separated and the organic phase was washed with saturated aqueous sodium bicarbonate, dried (MgSO4) and concentrated to give 2-p-methoxyphenyl-3-p-methylbenzoylbenzofuran.

reactant | 2-p-methoxyphenylbenzofuran | 0.018 mol | COC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O2
reactant | p-toluic acid chloride | 0.027 mol | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-p-methoxyphenyl-3-p-methylbenzoylbenzofuran | COC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)C)=O)C=CC=C2 | C23H18O3
